US04698337
Dry N,N-dimethylformamide (1.2 g.), phosphoryl chloride (2.5 g.), 2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetic acid (syn isomer, 3.8 g.) and dry ethyl acetate (49.7 ml.) were treated in a similar manner to that of Example 1-(1) to give an activated acid solution. The solution was added to a solution of 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (4.4 g.) and trimethylacetamide (12.3 g.) in dry ethyl acetate (90 ml.) at -10° C., and stirred at -5° to -10° C. for an hour. Water (50 ml.) was added to the resultant solution and allowed to stand at room temperature. The ethyl acetate layer was separated, washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After concentrating the solution in vacuo, the residue was pulverized with diisopropyl ether. The precipitates were collected by filtration, washed with diisopropyl ether and dried to give 7-[2-(2 -formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2.5 g.).

reactant | phosphoryl chloride | 2.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetic acid | 3.8 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCOC=O | C9H9N3O6S
reactant | 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 4.4 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C10H10N4O3S3
reactant | trimethylacetamide | 12.3 g | CC(C(=O)N)(C)C | C5H11NO
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 49.7 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 1.2 g | CN(C=O)C | C3H7NO
product | 7-[2-(2 -formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCCOC=O | C19H17N7O8S4
